US09233985B2
While under nitrogen, a stirred mixture of (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]pyrrolidine-3-carboxylic acid dihydrochloride (0.225 g, 0.623 mmol) in dry DMF (9 mL) was treated with Et3N (0.521 mL, 3.74 mmol) and 4-fluorophenyl isocyanate (92.1 uL, 0.810 mmol). After stirring for 1.5 h, the reaction mixture was diluted with water (5 mL) and acidified to pH˜1 with 3M aqueous HCl (5 mL). The aqueous phase was washed with methylene chloride (2×25 mL) and ethyl acetate (25 mL), concentrated and purified by reverse phase HPLC. Product fractions were pooled, concentrated, re-dissolved in 1M aqueous HCl, concentrated and lyophilized to give (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]-1-[(4-fluorophenyl)carbamoyl]pyrrolidine-3-carboxylic acid hydrochloride (racemate) (65 mg, 27%) as a white amorphous solid. MS (ESI+) m/z 336 (M−H2O+H+), 318 (M−2H2O+H+) and MS (ESI−) m/z 334 (M−H2O+H+).

reactant | (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]pyrrolidine-3-carboxylic acid dihydrochloride | 0.623 mmol, 0.225 g | Cl.Cl.N[C@]1(CNC[C@@H]1CCCB(O)O)C(=O)O
reactant | Et3N | 3.74 mmol, 0.521 mL | CCN(CC)CC | C6H15N
reactant | 4-fluorophenyl isocyanate | 0.810 mmol, 92.1 uL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | HCl | 3M, 5 mL | Cl | ClH
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]-1-[(4-fluorophenyl)carbamoyl]pyrrolidine-3-carboxylic acid hydrochloride | 65 mg, 27% | Cl.N[C@]1(CN(C[C@@H]1CCCB(O)O)C(NC1=CC=C(C=C1)F)=O)C(=O)O | InChI=1S/C15H21BFN3O5.ClH/c17-11-3-5-12(6-4-11)19-14(23)20-8-10(2-1-7-16(24)25)15(18,9-20)13(21)22;/h3-6,10,24-25H,1-2,7-9,18H2,(H,19,23)(H,21,22);1H/t10-,15-;/m0./s1
